US08049016B2
Synthesis of 1-(cyclopropylmethyl)-3-(4-methyl-5-(1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one
To a solution of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(cyclopropylmethyl)-imidazolidin-2-one (0.24 g, 0.85 mmol) in N,N-dimethylformamide (10 mL) was added N,N-dimethylformamide dimethyl acetal (0.20 mL, 1.50 mmol). The reaction mixture was heated for 17 hours at 110° C., followed by the addition of hydrazine monohydrate (0.20 mL, 4.11 mmol). The reaction mixture was heated for another 10 minutes at 110° C. and concentrated in vacuo. The residue was washed with water and triturated with ethyl acetate and the title compound was obtained as a white solid in 76% yield (0.20 g): mp 169-171° C. (ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 12.8 (s, 1H), 7.74 (br s, 1H), 6.40 (d, J=3.0 Hz, 1H), 3.98-3.92 (m, 2H), 3.62-3.57 (m, 2H), 3.05 (d, J=7.2 Hz, 2H), 2.36 (s, 3H), 0.95-0.84 (m, 1H), 0.49-0.43 (m, 2H), 0.21-0.17 (m, 2H); 1H NMR (75 MHz, DMSO-d6) δ 156.0, 155.5, 142.5, 103.3, 48.2, 42.5, 42.4, 16.9, 9.3, 3.6; MS (ES+) m/z 304.2 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(cyclopropylmethyl)-imidazolidin-2-one | 0.85 mmol, 0.24 g | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1CC1)=O)C | C13H17N3O2S
reactant | N,N-dimethylformamide dimethyl acetal | 1.50 mmol, 0.20 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine monohydrate | 4.11 mmol, 0.20 mL | O.NN
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(cyclopropylmethyl)-3-(4-methyl-5-(1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one | 76% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C1=NNC=C1)=O | C14H17N5OS
